US07582631B2
(S)-{4-[5-(5-Ethyl-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1 -phenyl-ethyl)-amine
The mixture of 50 mg (0.12 mmol) {4-[5-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo [1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine in 20 mL CH3CN was treated with 26 mg (0.24 mmol) bromoethane and 33 mg (0.24 mmol) K2CO3. The mixture was stirred at rt for 15 h. MS showed all starting materials were converted. The mixture was diluted with 50 mL DCM, washed with 20 mL sat. NaHCO3, dried over anhydrous Na2SO4. After purification by chromatography, obtained the title compound in 20 mg as a yellow solid. MS (ES+): 440 (M+H)+.

reactant | {4-[5-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo [1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine | 0.12 mmol, 50 mg | C12N(CC(NC1)C2)C2=NC(=CC=1N2C=CN1)C1=CC(=NC=C1)NC(C)C1=CC=CC=C1 | C24H25N7
reactant | bromoethane | 0.24 mmol, 26 mg | BrCC | C2H5Br
reactant | K2CO3 | 0.24 mmol, 33 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 20 mL | CC#N | C2H3N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-{4-[5-(5-Ethyl-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1 -phenyl-ethyl)-amine | C(C)N1[C@@H]2CN([C@H](C1)C2)C2=NC(=CC=1N2C=CN1)C1=CC(=NC=C1)N[C@@H](C)C1=CC=CC=C1 | C26H29N7
